US07253193B2
Chloromethyl 2-(1-(tert-butoxycarbonyl)-4-piperidyl)-ethyl carbonate
Pyridine (3.22 ml) was added to an ice-cold solution of 2-(1-(tert-butoxycarbonyl)-4-piperidyl)-ethanol (7.6 g) in dichloromethane (33 ml) followed by chloromethyl chloroformate (3.23 ml) at such a rate that the temperature was kept below 10° C. After stirring overnight at room temperature the reaction mixture was washed twice with 0.5 M HCl followed by water and aqueous sodium bicarbonate. The organic phase was dried over magnesium sulfate, filtered and evaporated in vacuo to yield the title compound as a colourless oil.

reactant | Pyridine | 3.22 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-(1-(tert-butoxycarbonyl)-4-piperidyl)-ethanol | 7.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | chloromethyl chloroformate | 3.23 ml | ClC(=O)OCCl | C2H2Cl2O2
solvent | dichloromethane | 33 ml | ClCCl | CH2Cl2
product | Chloromethyl 2-(1-(tert-butoxycarbonyl)-4-piperidyl)-ethyl carbonate | C(OCCl)(OCCC1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H24ClNO5
